US08791107B2
PREPARATION x22: 2-chloro-5-(cyclopropylmethyl)-4-methyl-5,6,6a,7,9,10-hexahydro-[1,4]oxazino[3,4-h]pteridine
To a round-bottom flask was added 2-chloro-4-methyl-5,6,6a,7,9,10-hexahydro-[1,4]oxazino[3,4-h]pteridine (PREPARATION x20, 248 mg, 1.030 mmol) in DMSO (4 mL). Sodium tert-butoxide (119 mg, 1.236 mmol) was added, followed by (bromomethyl)cyclopropane (0.105 mL, 1.082 mmol), and the reaction mixture was stirred overnight at room temperature. The mixture was subsequently filtered and the filtrate was purified by preparatory HPLC using a gradient of 25-50% CH3CN (with 0.035% TFA) in H2O (with 0.05% TFA). The fractions were collected and concentrated in vacuo to give the title compound as a brown solid (56 mg, 0.190 mmol, 18%). ESI-MS m/z [M+H]+ calc'd for C14H19ClN4O, 295.12. found 295.6.

reactant | 2-chloro-4-methyl-5,6,6a,7,9,10-hexahydro-[1,4]oxazino[3,4-h]pteridine | 1.030 mmol, 248 mg | ClC1=NC=2N3C(CNC2C(=N1)C)COCC3 | C10H13ClN4O
reactant | Sodium tert-butoxide | 1.236 mmol, 119 mg | CC(C)([O-])C.[Na+]
reactant | (bromomethyl)cyclopropane | 1.082 mmol, 0.105 mL | BrCC1CC1 | C4H7Br
solvent | DMSO | 4 mL | CS(=O)C | C2H6OS
product | 2-chloro-5-(cyclopropylmethyl)-4-methyl-5,6,6a,7,9,10-hexahydro-[1,4]oxazino[3,4-h]pteridine | 0.190 mmol, 56 mg, 18% | ClC1=NC=2N3C(CN(C2C(=N1)C)CC1CC1)COCC3 | C14H19ClN4O
